US08309577B2
Step D: 8-bromo-5-fluoroisoquinolin-3-amine
To a mixture of N-(2-bromo-5-fluorobenzyl)-2,2-diethoxyacetimidamide (1.6 g, 4.80 mmol) and dichloromethane (2 mL) was added H2SO4 (1.280 mL, 24.01 mmol). The reaction mixture was stirred at 80° C. for 16 hours, cooled to rt., diluted with EtOAc (100 mL), quenched with ice-water, and neutralized with NaHCO3 solution. The organic phase was washed with water, dried over Na2SO4, and evaporated. The residue was purified on an 80 g Thompson silica cartridge (3% to 100% EtOAc in Hexanes, 1200 mL). The desired product was obtained as a pale yellow solid (0.47 g, 1.950 mmol, 40.6% yield).

reactant | N-(2-bromo-5-fluorobenzyl)-2,2-diethoxyacetimidamide | 4.80 mmol, 1.6 g | BrC1=C(CNC(C(OCC)OCC)=N)C=C(C=C1)F | C13H18BrFN2O2
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
reactant | H2SO4 | 24.01 mmol, 1.280 mL | OS(=O)(=O)O | H2O4S
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 8-bromo-5-fluoroisoquinolin-3-amine | BrC=1C=CC(=C2C=C(N=CC12)N)F | C9H6BrFN2
